US07273878B2
To 20 ml of N,N-dimethylformamide were dissolved 1.50 g (6.6 mmol) of 6,6-difluoro-5-methyl-5-hexenylmethanesulfonate and 1.30 g (8.1 mmol) of 1H-indole-2-carboxylicacid, followed by the addition of 1.40 g (17 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 1.70 g (yield: 88%) of 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-2-carboxylate.

reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenylmethanesulfonate | 6.6 mmol, 1.50 g | FC(=C(CCCCCS(=O)(=O)[O-])C)F
reactant | 1H-indole-2-carboxylicacid | 8.1 mmol, 1.30 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | sodium hydrogencarbonate | 17 mmol, 1.40 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl 1H-indole-2-carboxylate | 1.70 g, yield: 88% | N1C(=CC2=CC=CC=C12)C(=O)OCCCCC(=C(F)F)C | C16H17F2NO2
